US05283361
H. N-[3-[2-(4-fluorophenylthio)-6-fluorophenyl]prop-2-enyl]hydroxylamine
N-[3-[2-(4-fluorophenylthio)-6-fluorophenyl]prop-2-enyl]-O-tetrahydropyranyl hydroxylamine (1.26 g, 3.34 mmol) is dissolved in 17 ml of methanol and cooled in an ice bath. Concentrated HCl (1.7 ml) is then added dropwise and the reaction mixture is stirred overnight at room temperature. The reaction mixture is evaporated to dryness and then slurried in saturated NaHCO3 solution and extracted twice with diethyl ether. The extracts are washed with water and then brine and dried over K2CO3 to afford the subtitle compound.

reactant | N-[3-[2-(4-fluorophenylthio)-6-fluorophenyl]prop-2-enyl]-O-tetrahydropyranyl hydroxylamine | 3.34 mmol, 1.26 g | FC1=CC=C(C=C1)SC1=C(C(=CC=C1)F)C=CCNOC1OCCCC1 | C20H21F2NO2S
reactant | HCl | 1.7 ml | Cl | ClH
solvent | methanol | 17 ml | CO | CH4O
product | N-[3-[2-(4-fluorophenylthio)-6-fluorophenyl]prop-2-enyl]hydroxylamine | FC1=CC=C(C=C1)SC1=C(C(=CC=C1)F)C=CCNO | C15H13F2NOS
